data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_687926_1,[C:1]([C:4]([C:5]1([C:2]([H:17])([H:18])[H:19])[C:6]([C:3]([H:20])([H:21])[H:22])([N:7]([H:11])[H:12])[C:8]([H:13])=[N:9]1)=[O:10])([H:14])([H:15])[H:16]>>[C:1]([C:4](/[C:5]([C:2]([H:17])([H:18])[H:19])=[N:9]\[C:8](=[C:6](\[C:3]([H:20])([H:21])[H:22])[N:7]([H:11])[H:12])[H:13])=[O:10])([H:14])([H:15])[H:16],19.704127500010458
MR_658947_1,[C:1]([C:6]([N:4]([C:5](=[C:7]([C:2]([H:17])([H:18])[H:22])[C:3]([H:19])([H:20])[H:21])[O:10][H:11])[N:8]([H:12])[H:13])=[C:9]([H:23])[H:24])([H:14])([H:15])[H:16]>>[C:1]([C:6]([C:7]([C:2]([H:17])([H:18])[H:22])([C:3]([H:19])([H:20])[H:21])/[C:5](=[N:4]\[N:8]([H:12])[H:13])[O:10][H:11])=[C:9]([H:23])[H:24])([H:14])([H:15])[H:16],55.15975999998773
MR_526564_1,[C:1]1([C:2]([H:11])([H:12])[H:13])=[N:7][C:4]1([C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])[N:6]([H:9])[H:10]>>[C:1]1([C:2]([H:11])([H:12])[H:13])([C:5]([C:3]([H:14])([H:15])[H:16])=[O:8])[C:4]([N:6]([H:9])[H:10])=[N:7]1,71.04805999996586
MR_243111_1,[C:1]([N:3]([C:4]([N:6]([H:10])[H:11])=[O:9])/[C:5]([N:7]([H:12])[H:13])=[C:8](\[C:2]([H:18])([H:19])[H:20])[H:14])([H:15])([H:16])[H:17]>>[C:1](/[N:3]=[C:5](/[N:7]([H:12])[H:13])[C@@:8]([C:2]([H:18])([H:19])[H:20])([C:4]([N:6]([H:10])[H:11])=[O:9])[H:14])([H:15])([H:16])[H:17],46.43813749999978
MR_560257_0,[C:1](/[C:4](=[C:3](\[C:5]([C:2]([H:16])([H:17])[H:18])=[C:8]([H:19])[H:20])[N:6]([H:9])[H:10])[N:7]([H:11])[H:12])([H:13])([H:14])[H:15]>>[C:1]([C@:4]1([N:7]([H:11])[H:12])[C:3]([N:6]([H:9])[H:10])=[C:5]([C:2]([H:16])([H:17])[H:18])[C:8]1([H:19])[H:20])([H:13])([H:14])[H:15],41.53046000001325
MR_26636_1,[C:1]1([C:3](/[C:6]([C:5]([H:17])([H:18])[H:19])=[N:8]\[C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:9])[C:2]([H:10])([H:11])[O:7]1>>[C:1]([C:2]([O:7]/[C:6]([C:5]([H:17])([H:18])[H:19])=[N:8]\[C:4]([H:14])([H:15])[H:16])([H:10])[H:11])(=[C:3]([H:12])[H:13])[H:9],56.83141999997616
MR_497967_0,[C:1]([C:2]([N:5]([H:10])[H:11])([N:6]([H:12])[H:13])[H:9])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:7][H:8]>>[C:1]([C@:2]([N:5]([H:10])[H:11])([O:7][H:8])[H:9])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[N:6]([H:12])[H:13],69.0532375000086
MR_526854_0,[C:1]1([H:9])([H:10])[N:2]([H:8])[O:5][C:3]([O:6][H:7])=[C:4]1[H:11]>>[C:1](=[C:4]([C@:3]1([O:6][H:7])[N:2]([H:8])[O:5]1)[H:11])([H:9])[H:10],46.19529500000653
MR_452020_1,[C:1]([N:3]([O:6][H:8])[H:9])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[N:5]([H:10])[H:11])([H:12])[H:13]>>[C:1](=[C:4]([C:2]([H:14])([H:15])[H:16])[N:7]([N:3]([O:6][H:8])[H:9])[N:5]([H:10])[H:11])([H:12])[H:13],61.89471750003349
MR_511472_0,[C:1](/[N:4]=[N:3]/[N:2]=[O:5])([H:6])([H:7])[H:8]>>[C:1](/[N:3]=[N:4]/[N:2]=[O:5])([H:6])([H:7])[H:8],73.32212000000283
MR_573408_0,[C:1]([C:2]([H:15])([H:16])[H:17])(/[C:4]([N:6]([H:12])[H:13])=[C:7](\[C:3]([H:18])([H:19])[H:20])[H:14])([O:8][N:5]([H:10])[H:11])[H:9]>>[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:4](/[N:6]([H:12])[H:13])[C:7]([C:3]([H:18])([H:19])[H:20])([O:8][N:5]([H:10])[H:11])[H:14])[H:9],54.86546250001737
MR_390119_0,[C:1]([C:2]([C:6]([C:5]([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])[O:9][H:10])=[C:7]([H:20])[H:21])([H:12])[H:13])(=[O:8])[H:11]>>[C:1]([C:2]([C:6]([C:5]([C:4]([H:17])([H:18])[H:19])=[O:9])=[C:7]([H:20])[H:21])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([O:8][H:10])[H:11],61.09277250002506
MR_494520_1,[C:1](/[C:3]([C:5](=[C:2]([O:7][H:9])[O:8][H:10])[H:13])=[C:6](\[N:4]([H:11])[H:12])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C:3]1=[C:5]([H:13])[C:2]([O:7][H:9])([O:8][H:10])[C:6]1([N:4]([H:11])[H:12])[H:14])([H:15])([H:16])[H:17],37.30110999999056
MR_380219_0,[C:1](=[N:7][N:6](/[C:2]([N:5]([H:13])[H:14])=[N:8]\[N:4]([H:11])[H:12])[N:3]([H:9])[H:10])([H:15])[H:16]>>[C:1](/[C:2]([N:5]([H:13])[H:14])=[N:8]\[N:4]([H:11])[H:12])(/[N:7]=[N:6]/[N:3]([H:9])[H:10])([H:15])[H:16],59.75745250000784
MR_249471_0,[C:1]([O:4][O:5][C:2]([H:10])([H:11])[H:12])([O:6][C:3]([H:13])([H:14])[H:15])([O:7][H:8])[H:9]>>[C:1]([O:4][O:6][C:3]([H:13])([H:14])[H:15])([O:5][C:2]([H:10])([H:11])[H:12])([O:7][H:8])[H:9],58.20752749999741
MR_642079_2,[C:1]([C:2]([H:13])([H:14])[H:15])([C:3]([N:5]([H:11])[H:12])=[C:6]([H:16])[H:17])([N:4]([H:9])[H:10])[O:7][H:8]>>[C:1]1([C:2]([H:13])([H:14])[H:15])([O:7][H:8])[C:3]([N:4]([H:9])[H:10])([N:5]([H:11])[H:12])[C:6]1([H:16])[H:17],72.38212500002192
MR_226156_2,[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([C:4]([N:5]([H:11])[H:12])=[O:8])[H:9])([N:7]=[C:6]([H:16])[H:17])[H:10]>>[C:1]([C:2]([H:13])([H:14])[H:15])([N:3]([N:7]=[C:6]([H:16])[H:17])[H:9])([C:4]([N:5]([H:11])[H:12])=[O:8])[H:10],61.41154250000497
MR_110250_1,[C:1]([C:4]12[N:3]([N:6]([H:9])[H:10])[C:5]1([C:2]([H:16])([H:17])[H:18])[C:8]([H:12])=[C:7]2[H:11])([H:13])([H:14])[H:15]>>[C:1]([c:4]1[n:3]([N:6]([H:9])[H:10])[c:5]([C:2]([H:16])([H:17])[H:18])[c:8]([H:12])[c:7]1[H:11])([H:13])([H:14])[H:15],26.51689500000245
